US04572799
N-Cbz-2-aminoisobutyric acid 2,2,5,5-tetramethylcyclopentyl amide is dissolved in CH3OH and is hydrogenated over 5% Pd/C in a Parr hydrogenation apparatus. When the reaction is complete the mixture is filtered through Celite and concentrated to yield 2-aminoisobutyric acid 2,2,5,5-tetramethylcyclopentyl amide.

reactant | N-Cbz-2-aminoisobutyric acid 2,2,5,5-tetramethylcyclopentyl amide | CC1(C(C(CC1)(C)C)NC(C(C)(C)NC(=O)OCC1=CC=CC=C1)=O)C | C21H32N2O3
solvent | CH3OH | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-aminoisobutyric acid 2,2,5,5-tetramethylcyclopentyl amide | CC1(C(C(CC1)(C)C)NC(C(C)(C)N)=O)C | C13H26N2O
